US07456218B2
ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate
To a solution of ethyl 3-(2-fluoro-4-methoxyphenyl)propanoate (57.4 g, 254 mmol) and aluminum chloride (101 g, 761 mmol) in dichloromethane (250 mL) was added dropwise 1-octanethiol (74.3 g, 508 mmol) and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was poured into ice water and the mixture was stirred for 30 min. The organic layer was separated, washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20% ethyl acetate/hexane) to give the title compound (44.6 g, yield 83%) as a colorless oil.

reactant | ethyl 3-(2-fluoro-4-methoxyphenyl)propanoate | 254 mmol, 57.4 g | FC1=C(C=CC(=C1)OC)CCC(=O)OCC | C12H15FO3
reactant | aluminum chloride | 761 mmol, 101 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-octanethiol | 508 mmol, 74.3 g | C(CCCCCCC)S | C8H18S
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | ethyl 3-(2-fluoro-4-hydroxyphenyl)propanoate | 44.6 g, yield 83% | FC1=C(C=CC(=C1)O)CCC(=O)OCC | C11H13FO3
